US05438052
4-Chloromethyl-benzoyl chloride (18.9 g) (0.1 mol) and 13.8 g (0.2 mol) of hydroxylamine hydrochloride are suspended in 200 ml of water and 150 ml of diethyl ether. 25.2 g (0.3 mol) of sodium hydrogen carbonate are added while stirring. After 30 minutes the product is filtered off under suction and washed with water and diethyl ether. After drying in a high vacuum at room temperature there are obtained 17 g of white α-chloro-N-hydroxy-p-toluamide of m.p. 120°-145° C. (dec.).

reactant | 4-Chloromethyl-benzoyl chloride | 0.1 mol, 18.9 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | hydroxylamine hydrochloride | 0.2 mol, 13.8 g | Cl.NO
reactant | sodium hydrogen carbonate | 0.3 mol, 25.2 g | C(O)([O-])=O.[Na+]
solvent | water | 200 ml | O | H2O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | α-chloro-N-hydroxy-p-toluamide | 17 g | ClCC1=CC=C(C=C1)C(=O)NO | C8H8ClNO2
